US04582837
2-(2'-Methoxy-4'-chlorosulfonyl-phenyl)-imidazo[4,5-d]pyridine hydrochloride
Five grams of 2-methoxy-4-chlorosulfonyl-benzoic acid (prepared from 4-amino-2-methoxy-benzoic acid via the corresponding diazonium compound) were dissolved in 400 ml of phosphorus oxychloride and heated to 80° C. for 30 minutes. Then, 3.6 gm of 2,3-diaminopyridine were added, and the mixture was refluxed for four hours. The reaction mixture was concentrated by evaporation in vacuo and re-evaporated with toluene, and the solid residue was processed further without any other purification.

reactant | 2-methoxy-4-chlorosulfonyl-benzoic acid | Five grams | COC1=C(C(=O)O)C=CC(=C1)S(=O)(=O)Cl | C8H7ClO5S
reactant | 4-amino-2-methoxy-benzoic acid | NC1=CC(=C(C(=O)O)C=C1)OC | C8H9NO3
reactant | 2,3-diaminopyridine | 3.6 gm | NC1=NC=CC=C1N | C5H7N3
solvent | phosphorus oxychloride | 400 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-(2'-Methoxy-4'-chlorosulfonyl-phenyl)-imidazo[4,5-d]pyridine hydrochloride | Cl.COC1=C(C=CC(=C1)S(=O)(=O)Cl)C1=NC=2C(=CC=NC2)N1 | InChI=1S/C13H10ClN3O3S.ClH/c1-20-12-6-8(21(14,18)19)2-3-9(12)13-16-10-4-5-15-7-11(10)17-13;/h2-7H,1H3,(H,16,17);1H
